US05441563
Preparation of N,N-Bis(Benzotriazol-1-yl Methyl) Glycine (BTA-G)
One hundred nineteen and three tenths parts of 1-(Hydroxymethyl) benzotriazole and glycine (30 parts) were added to 600 parts of dry toluene containing 1.7 parts of p-toluenesulfonic acid. The mixture was stirred and refluxed under a Dean-Stark trap. After about 4.5 hours, the theoretical amount of water (14.4 parts) had collected and heating was suspended. The reaction mixture was cooled in ice-water and the tan solid that had formed was filtered with suction. After washing the filter-cake consecutively with toluene and ether and drying it in vacuo, 116 parts of N,N-bis(benzotriazol-1-yl methyl) glycine were obtained and identified by 1H and 13C NMR spectral analysis. The product melted at 163°-6° C. and was obtained in 86% yield.

reactant | 1-(Hydroxymethyl) benzotriazole | OCN1N=NC2=C1C=CC=C2 | C7H7N3O
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N-Bis(Benzotriazol-1-yl Methyl) Glycine | 86% yield | N1(N=NC2=C1C=CC=C2)CN(CC(=O)O)CN2N=NC1=C2C=CC=C1 | C16H15N7O2
